US09233966B2
Preparation of Form I of Ticagrelor Hydrochloride
Ticagrelor (0.5 g) and ethyl acetate (15 mL) were charged into a round bottom flask and the mixture was stirred at about 25-30° C. for about 15 minutes for clear solution. Then aqueous hydrochloric acid (0.12 mL, 35%) was added to the above reaction mixture at 25-35° C. and stirred for solid separation for about 2 hours. The solid was filtered, washed with ethyl acetate (5 mL) and dried to afford the title compound in about 75% yield having chiral HPLC purity of 99.55%.

reactant | Ticagrelor | 0.5 g | CCCSC=1N=C(C2=C(N1)N(N=N2)[C@@H]3C[C@@H]([C@H]([C@H]3O)O)OCCO)N[C@@H]4C[C@H]4C=5C=CC(=C(C5)F)F | C23H28F2N6O4S
reactant | hydrochloric acid | 0.12 mL | Cl | ClH
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | Ticagrelor Hydrochloride | about 75% yield | CCCSC1=NC2=C(C(=N1)N[C@@H]3C[C@H]3C4=CC(=C(C=C4)F)F)N=NN2C5CC([C@H]([C@H]5O)O)OCCO.Cl | InChI=1S/C23H28F2N6O4S.ClH/c1-2-7-36-23-27-21(26-15-9-12(15)11-3-4-13(24)14(25)8-11)18-22(28-23)31(30-29-18)16-10-17(35-6-5-32)20(34)19(16)33;/h3-4,8,12,15-17,19-20,32-34H,2,5-7,9-10H2,1H3,(H,26,27,28);1H/t12-,15+,16?,17?,19-,20+;/m0./s1
